US07968538B2
1,2,3,4-Tetrahydro-6,7-dimethoxy-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine hydrochloride
To a solution of 1,2,3,4-tetrahydro-6,7-dimethoxy-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine (20.0 mg, 0.05 mmol) in dichloromethane (2 mL) at 0° C. was added 29 μL of 2 M HCl in diethyl ether. The solution was allowed to stir for 10 minutes after which a precipitate formed. The solvent was removed by rotary evaporation to collect the title compound (25.0 mg, 0.05 mmol) in 100% yield. 1H NMR (400 MHz, CD3OD): δ 7.54 (d, 1H), 6.73 (s, 1H), 6.65 (s, 1H), 6.51 (dd, 1H), 6.43 (d, 1H), 6.38 (m, 1H), 5.90 (m, 1H), 3.81 (s, 3H), 3.79 (s, 3H), 3.54 (m, 4H), 3.34 (m, 4H), 3.02 (s, 3H), 2.69 (m, 2H), 2.25 (m, 2H); MS (ESI) m/z: 446.4 (M++1).

reactant | 1,2,3,4-tetrahydro-6,7-dimethoxy-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine | 0.05 mmol, 20.0 mg | COC=1C=C2CCCC(C2=CC1OC)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C23H31N3O4S
reactant | HCl | 2 M, 29 μL | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine hydrochloride | 0.05 mmol, 25.0 mg, 100% yield | Cl.COC=1C=C2CCCC(C2=CC1OC)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | InChI=1S/C23H31N3O4S.ClH/c1-29-21-13-16-5-4-6-19(18(16)15-22(21)30-2)25-20-14-17(26-11-9-24-10-12-26)7-8-23(20)31(3,27)28;/h7-8,13-15,19,24-25H,4-6,9-12H2,1-3H3;1H
